US08541162B2
Preparation of 10%-fluoroalkylated styrene-butadiene-styrene copolymer (SBS-F)
A solution of 10% hydroxylated SBS copolymer (3.5 g, 4.5 mmol reactive OH group) dissolved in anhydrous tetrahydrofuran (250 mL) was treated first with pyridine (0.72 g, 9.1 mmol) followed by pentadecafluorooctanoyl chloride (2.08 g, 4.81 mmol). The resulting solution was stirred under argon at room temperature for one hour and then heated to a mild reflux for an additional 24 hours. The reaction mixture was poured into water (500 mL), immediately giving a white precipitate. The crude product was redissolved into tetrahydrofuran (200 mL) and then reprecipitated into water. Two additional tetrahydrofuran-water dissolution-precipitation steps were used to obtain the desired product in purified form. The fluoroalkylated copolymer was then dried in vacuo at 40 degrees C. for 48 hours to give a white, elastomeric solid. The product was stored in the dark under an argon atmosphere. Analysis of the product by FTIR revealed the absence of a broad peak centered near 3329 cm−1 consistent with the esterification of the reactive hydroxyl groups within the copolymer's backbone. An additional signal near 1780 cm−1 (ester carbonyl stretch) was also observed.

reactant | pyridine | 9.1 mmol, 0.72 g | N1=CC=CC=C1 | C5H5N
reactant | pentadecafluorooctanoyl chloride | 4.81 mmol, 2.08 g | FC(C(C(C(C(C(C(=O)Cl)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C8ClF15O
reactant | water | 500 mL | O | H2O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | styrene-butadiene-styrene | C=CC1=CC=CC=C1.C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/2C8H8.C4H6/c2*1-2-8-6-4-3-5-7-8;1-3-4-2/h2*2-7H,1H2;3-4H,1-2H2
